US07410976B2
8-Cyclopropyl-4-methoxy-quinoline-2-carboxylic acid (2.70 g, 11.1 mmol) was dissolved in DMF (27 mL) and carbonyldiimidazole (2.33 g, 14.4 mmol) was added thereto portionwise. After the mixture was stirred at room temperature for 4 h, H2O (135 mL) was added dropwise thereto at 0° C. for 1 h. The resulted precipitate was filtered and washed with H2O to afford (8-cyclopropyl-4-methoxy-quinolin-2-yl)-imidazol-1-yl-methanone as a colorless solid.

reactant | 8-Cyclopropyl-4-methoxy-quinoline-2-carboxylic acid | 11.1 mmol, 2.70 g | C1(CC1)C=1C=CC=C2C(=CC(=NC12)C(=O)O)OC | C14H13NO3
reactant | carbonyldiimidazole | 14.4 mmol, 2.33 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | H2O | 135 mL | O | H2O
solvent | DMF | 27 mL | CN(C)C=O | C3H7NO
product | (8-cyclopropyl-4-methoxy-quinolin-2-yl)-imidazol-1-yl-methanone | C1(CC1)C=1C=CC=C2C(=CC(=NC12)C(=O)N1C=NC=C1)OC | C17H15N3O2
